simulator lang = spectre 
global 0 
parameters ibias=100u l=60n vbias=0.5 w=2u 
 
	M28 ( vout net6 VSS VSS ) nmos l=l w=w*1 multi=1 nf=1 sigma=1  
	M0 ( net4 net4 VDD VDD ) pmos l=l w=w*1 multi=1 nf=1 sigma=1  
	M33 ( vout net4 VDD VDD ) pmos l=l w=w*1 multi=1 nf=1 sigma=1  
	V3 ( VSS 0 ) vsource type=dc  
	V2 ( VDD 0 ) vsource dc=1 type=dc  
	V1 ( net6 VSS ) vsource dc=vbias mag=1 type=dc  
	V0 ( net4 VSS ) isource dc=ibias type=dc  
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 multithread=on nthreads=4 scalem=1.0 scale=1.0 gmin=1e-12 \
    rforce=1 maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=vbias start=0 stop=1 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
ac ac start=0 stop=100G annotate=status 
outputParameter info what=output where=rawfile
save vout M28:1 
saveOptions options save=selected
